US05212320
Sodium borohydride (4.72 g) was added to a solution of 2,2-dimethyl-4'-isobutylpropiophenone (22.7 g) in isopropyl alcohol (150 ml). The mixture was stirred at 50° C. for 2 hours and poured into ice water. After acidified with 6N-hydrochloric acid, the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and evaporated to give 2,2-dimethyl-1-(4-isobutylphenyl)propanol as a colourless oil (21.6 g).

reactant | Sodium borohydride | 4.72 g | [BH4-].[Na+]
reactant | 2,2-dimethyl-4'-isobutylpropiophenone | 22.7 g | CC(C(=O)C1=CC=C(C=C1)CC(C)C)(C)C | C15H22O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
product | 2,2-dimethyl-1-(4-isobutylphenyl)propanol | 21.6 g | CC(C(O)C1=CC=C(C=C1)CC(C)C)(C)C | C15H24O
